US07348359B2
E. 3-[3-(2-Ethoxy-3,5-diisopropyl-phenyl)-benzo[d]isoxazol-5-yl]-but-2-enoic acid
A solution of 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-benzo[d]isoxazol-5-yl]-but-2-enoic acid methyl ester (99.6 mg, 0.24 mmol) in 2 mL of methanol and 2 ml of 1N NaOH solution was heated this mixture to 60° C. for 3 h, then cooled and brought to pH 2 with 1N HCl. The reaction mixture was extracted with ethyl acetate (2×10 mL), and the organic layers were dried over MgSO4 and evaporated to a residue. The residue was purified by silica gel chromatography (50% ethyl acetate in hexanes) to give a clear oil, which solidified upon standing to a waxy solid (12.1 mg, 13%).

reactant | 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-benzo[d]isoxazol-5-yl]-but-2-enoic acid methyl ester | 0.24 mmol, 99.6 mg | COC(C=C(C)C=1C=CC2=C(C(=NO2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC)C1)=O | C26H31NO4
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | NaOH | 1N, 2 ml | [OH-].[Na+]
product | 3-[3-(2-Ethoxy-3,5-diisopropyl-phenyl)-benzo[d]isoxazol-5-yl]-but-2-enoic acid | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=NOC2=C1C=C(C=C2)C(=CC(=O)O)C | C25H29NO4
